US06815451B2
B1. (2-Bromo-ethyl)-carbamic Acid Tert-butyl Ester
To 1 N aqueous NaOH (200 mL) is added to MeOH (400 mL) and the resulting solution is cooled to 20° C. 2-Bromoethylamine hydrobromide (25.0 g, 122 mmol) is added in a single portion, followed di-tert-butyl dicarbonate (26.6 g, 122 mmol). The reaction mixture is stirred for 2.5 h. The MeOH is removed on a rotary evaporator, and the aqueous suspension is extracted with CH2Cl2 (2×175 mL). The combined organic phases are extracted with 5% aqueous citric acid (300 mL), dried over MgSO4, filtered, and evaporated to provide the title compound.

reactant | NaOH | 1 N, 200 mL | [OH-].[Na+]
reactant | 2-Bromoethylamine hydrobromide | 122 mmol, 25.0 g | Br.BrCCN
reactant | di-tert-butyl dicarbonate | 122 mmol, 26.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 400 mL | CO | CH4O
product | (2-Bromo-ethyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
